2183-01-29 10:48:00 Physician Attending Progress Note
Chief Complaint: 66 y/o man with PMh CAd s/p STEMI who presented with
   cough, SOB x 3 days
   HPI:
   66 y/o man with PMH COPD,  CAD s/p STEMI [**12-3**] with resultant
   cardiomyopathy (EF 10-15%)  At baseline able to ambulate from room to
   room but on day of admit dyspnic walking across the room. Cough
   productive of blood tinged sputum.  No f/c/r. Started on levofloxacin
   at home, but no relief. Presented to ED where he underwent negative CTA
   (no clot, no infiltrate)
   24 Hour Events:
 PICC LINE - START [**2183-1-28**] 05:35 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2183-1-29**] 06:00 AM
   Vancomycin - [**2183-1-29**] 09:00 AM
   Infusions:
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   milrinone, lasix, ASA/Plavix
   Changes to medical and family history:
   AMI in [**12-3**] c/b cardiogenic [**Last Name (LF) 281**], [**First Name3 (LF) 282**] hosiptalization and recent
   rehab discharge.
   COPD FEV1 39% predicted.
   EF 15-20%, chronic milrinone.
   NSCLC s/p remote left penumonectomy.
   Afib, on coumadin, INR 7 on presentation.
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, chills
   Cardiovascular: Tachycardia
   Respiratory: Cough, Dyspnea
   Musculoskeletal: Myalgias
   Flowsheet Data as of  [**2183-1-29**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.8
C (96.4
   HR: 103 (103 - 117) bpm
   BP: 85/52(60) {72/36(44) - 104/64(71)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85.2 kg (admission): 85.6 kg
   Height: 71 Inch
             Total In:
                                                                    328 mL
                                                                  2,330 mL
   PO:
             TF:
   IVF:
                                                                    268 mL
                                                                  2,330 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    200 mL
   Urine:
                                                                    600 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -272 mL
                                                                  2,130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Alert and oriented x 3
   JVP 8-9
   Diffuse exp. Wheeze, some rhonchi
   No accessory muscle use
   RRR, II/VI systolic murmur at apex, no S3
   Abdomen soft, non-tender
   Extremities warm and well perfused
   Labs / Radiology
   9.5 g/dL
   364 K/uL
   85 mg/dL
   1.4 mg/dL
   28 mEq/L
   4.1 mEq/L
   35 mg/dL
   94 mEq/L
   134 mEq/L
   31.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2183-1-29**]  03:02 AM
   WBC
   6.5
   Hct
   31.0
   Plt
   364
   Cr
   1.4
   TropT
   0.02
   Glucose
   85
   Other labs: PT / PTT / INR:52.2/48.2/6.0, CK / CKMB /
   Troponin-T:27/3/0.02, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR - s/p left pneumonectomy
   Chest CT - moderate pulm. edema. Right sided effusion. No PE.
   ECG: Sinus tach with anterior q's (old)
   Assessment and Plan
   66 year old man with severe cardiomyopathy and COPD who presents with
   AECOPD
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   Likely viral vs bacterial tracheobronchitis leading to AECOPD. No
   evidence of frank pneumonia by CT. On vanc/zosyn now. Sputum cutlure
   spending.  Viral dfa
s pending for flu and rsv
   Will change abx to vancomycin and levofloxacin for atypical coverage.
   Start prednisone 60 mg today, standing nebs.
 H/O PNEUMOECTOMY
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
    Suspect he is at his baseline. Exam w/o evidence of  decompensated
   heart failure.
   Continue milrinone ggt per home dose. Lasix 100 mg [**Hospital1 **].
   Will consult heart failure service.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Suspect [**12-28**] AECOPD. Plan as above.
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 DIABETES MELLITUS (DM), TYPE II
   RISS, close monitoring given steroids (below). Holding glyburide.
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   # elevated INR
   Holding coumadin, likely elevated in setting of abx use. Will monitor.
   ICU Care
   Nutrition:  diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-1-28**] 05:35 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : stable for transfer to floor
   Total time spent: 45

2183-01-30 08:11:00 Physician Resident Progress Note
Chief Complaint: Cough and SOB x 3 D
   24 Hour Events:
   - RSV+
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2183-1-29**] 06:00 AM
   Vancomycin - [**2183-1-29**] 07:48 PM
   Infusions:
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-1-30**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96
   HR: 102 (102 - 114) bpm
   BP: 100/66(75) {73/34(47) - 103/72(75)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85.2 kg (admission): 85.6 kg
   Height: 71 Inch
             Total In:
                                                                  3,945 mL
                                                                    141 mL
   PO:
                                                                    860 mL
             TF:
   IVF:
                                                                  3,025 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                    200 mL
   Urine:
                                                                  1,040 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,905 mL
                                                                    -59 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   357 K/uL
   9.8 g/dL
   196 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.0 mEq/L
   42 mg/dL
   92 mEq/L
   128 mEq/L
   32.5 %
   4.7 K/uL
        [image002.jpg]
                             [**2183-1-29**]  03:02 AM
                             [**2183-1-30**]  03:50 AM
   WBC
   6.5
   4.7
   Hct
   31.0
   32.5
   Plt
   364
   357
   Cr
   1.4
   1.7
   TropT
   0.02
   Glucose
   85
   196
   Other labs: PT / PTT / INR:52.2/48.2/6.0, CK / CKMB /
   Troponin-T:27/3/0.02, Lactic Acid:2.9 mmol/L, Ca++:8.6 mg/dL, Mg++:2.2
   mg/dL, PO4:4.5 mg/dL
   Imaging: FINDINGS:  In comparison with the study of [**1-28**], there is again
   complete
   opacification of the left hemithorax, consistent with prior
   pneumonectomy.
   There is some prominence of interstitial markings on the right, raising
   the
   possibility of some elevated pulmonary venous pressure.  No acute focal
   pneumonia is appreciated.
   Microbiology: NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.
   GRAM STAIN (Final [**2183-1-28**]):
         >25 PMNs and >10 epithelial cells/100X field.
         Gram stain indicates extensive contamination with upper
   respiratory
         secretions. Bacterial culture results are invalid.
   Assessment and Plan
   A/P: Mr. [**Known lastname 274**] is a 66 yo male with CHF, CAD, COPD, remote h/o lung
   cancer s/p left pneumonectomy presents with respiratory distress x 3
   days
   .
   1) Respiratory distress: Patient with new productive cough in the
   absence of clear pulmonary infiltrate, failed levofloxacin x 3 days at
   home as empiric treatment for community acquired pneumonia. Suspect
   infectious etiology given elevated lactate, chills, and sputum
   production; however, cannot rule out multifactorial picture given his
   history of COPD and CHF. PE ruled out by CTA in ED. Patient with
   chronic emphysematous changes and superimposed pulmonary edema on chest
   CT. Patient is at notable risk for nosocomial infections given
   protracted hospitalization in [**Month (only) 25**] followed by rehab stay. Was
   started on vanc/levo, but now w/ + RSV, abx d/c'd.
   - continue steroids, and begin to taper tomorrow
   - repeat induced sputum for culture, first was contaminant
   - Urine legionella negative
   - BNP at baseline
   - continue Spiriva with PRN albuterol
   - Guaifenesin q6h as mucolytic
   .
   2) Cardiac:
   (a) Pump: most recent EF 15-20%, with severe systolic dysfunction.
   - Will continue patient's milrinone drip
   - Lasix 100 mg [**Hospital1 7**]
   - appears that patient's baseline SBP is 85-95
   - HF fellow was paged and emailed yesterday w/ no reply
   (b) Rhythm: patient with h/o PAF, on amiodarone 200 mg daily,
   anticoagulated on coumadim, currently supratherapeutic.
   (c) Vessels: Known severe multi-vessel disease.
   - continue ASA, plavix
   .
   3) ARF: Patient presented with creatinine 1.8 up from baseline of 1.2,
   was down to 1.4 w/ hydration, and believed to be likely prerenal in the
   setting of intravascular volume depletion, superimposed on mild chronic
   renal insufficiency. Now up to 1.7 w/ new hyponatremia. Will check PO
   lytes.
   - gentle PO rehydration
   .
   4) DM2: Glyburide held in the setting of acute illness.
   - SSI with goal for BG<150
   - sugars up today while using steroids, and SS was increased.
   .
   5) Supratherapeutic INR: INR of 7.2 on presentation on stable dose,
   elevated in setting of abx. Coumadin being held. was 7.9 today.
   5) FEN: cardiac/DM diet
   6) PPx: PPI, systemically anticoagulated
   7) FUll Code
   ICU Care
   Nutrition:
   Comments: Regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-1-28**] 05:35 PM
   18 Gauge - [**2183-1-29**] 08:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Called out to [**Hospital Ward Name **] 3

2183-01-30 12:14:00 Physician Attending Progress Note
Chief Complaint: copd exac, rsv bronchitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 66 year old man with severe cardiomyopathy and COPD who presents
   with AECOPD in setting of RSV infection
   24 Hour Events:
   rsv +
 BLOOD CULTURED - At [**2183-1-29**] 01:19 PM
 URINE CULTURE - At [**2183-1-29**] 01:59 PM
 CALLED OUT and awaiting floor bed
   History obtained from Patient, house staff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2183-1-29**] 06:00 AM
   Vancomycin - [**2183-1-30**] 08:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-1-30**] 08:15 AM
   Heparin Sodium (Prophylaxis) - [**2183-1-30**] 08:15 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-1-30**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.6
C (96
   HR: 106 (102 - 114) bpm
   BP: 81/62(66) {75/40(55) - 100/72(75)} mmHg
   RR: 25 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.1 kg (admission): 85.6 kg
   Height: 71 Inch
             Total In:
                                                                  3,958 mL
                                                                    469 mL
   PO:
                                                                    860 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  3,038 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                    400 mL
   Urine:
                                                                  1,040 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,918 mL
                                                                     69 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   357 K/uL
   196 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.0 mEq/L
   42 mg/dL
   92 mEq/L
   128 mEq/L
   32.5 %
   4.7 K/uL
        [image002.jpg]
                             [**2183-1-29**]  03:02 AM
                             [**2183-1-30**]  03:50 AM
   WBC
   6.5
   4.7
   Hct
   31.0
   32.5
   Plt
   364
   357
   Cr
   1.4
   1.7
   TropT
   0.02
   Glucose
   85
   196
   Other labs: PT / PTT / INR:52.2/48.2/6.0, CK / CKMB /
   Troponin-T:27/3/0.02, Lactic Acid:2.9 mmol/L, Ca++:8.6 mg/dL, Mg++:2.2
   mg/dL, PO4:4.5 mg/dL
   Imaging: CXR--no change, L pneumonectomy, no focal infil R, vascular
   markings
   Microbiology: sputum-contaminated
   Assessment and Plan
   66 year old man with severe cardiomyopathy and COPD who presents with
   AECOPD in setting of RSV infection
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION in setting of RSV
   D/c antibx
   Continue prednisone 60 mg today, taper starting tomorrow, standing nebs
   Q 4 hours, spiriva, robitussin
 H/O PNEUMOECTOMY
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
    Suspect he is at his baseline. Exam w/o evidence of decompensated
   heart failure. Appeared dry on admit in setting of poor po X days
    Continue milrinone ggt per home dose. Continue home regimen.  Continue
   lasix 100 mg [**Hospital1 **] and aldactone.
    CHF c/s remains pending
   # arf
cr 1.8 on admit, likely pre-renal, some improvement with IVF and
   now back at 1.7, appears euvolemic on exam, continue home regimen,
   though may need to hold diuresis if cr continues to rise, encourage PO
   intake, recheck lyes  in pm, remains w/good u/o
   # elevated INR
   likely elevated in setting of abx use (levo).
   Holding coumadin, restart once INR therapeutic
   # p afib--amio, coumadin as noted
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 DIABETES MELLITUS (DM), TYPE II
   tighten RISS while on steroids, holding glyburide in setting of cr
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)--plavix and asa
   ICU Care
   Nutrition:
   Comments: diet--cardiac and diabetic
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2183-1-28**] 05:35 PM
   18 Gauge - [**2183-1-29**] 08:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin on hold why elevated)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor when bed availble
   Total time spent: 40 minutes